US04801717
N-hydroxy-phthalimide and 4,7-dichloro-quinoline were reacted to form 0-(7-chloro-4-quinolyl)-phthalimide melting at 225° C. and the latter is reacted to obtain 0-(7-chloro-4- quinolyl)-hydroxylamine melting at 175° C.

reactant | N-hydroxy-phthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4,7-dichloro-quinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
product | 0-(7-chloro-4-quinolyl)-phthalimide | ClC1=CC=C2C(=CC=NC2=C1)C12C(C(=O)NC1=O)C=CC=C2 | C17H11ClN2O2
